US06043241
(E)-4-(4-Ethoxy-3-methyl-benzoyl)-2-(7-methoxy-benzo[1,3]dioxol-5-yl)-4-(3,4,5-trimethoxy-benzyl)-but-2-enoic acid
To 150 mL methanol to which 4.2 mL 1.00N NaOH had been added was added 3-(7-methoxy-benzo[1,3]dioxol-5-yl)-5-hydroxy-5-(4-ethoxy-3-methylphenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one 2.00 g (3.95 mmol). The suspension was stirred to give solution and was placed in a 400 mL Pyrex™ beaker and diluted with 150 mL water. The beaker was covered with a quartz evaporating dish (100 mm o.d.×15 mm h., QRD 100; Quartz Scientific, Inc., Fairport Harbor, Ohio). The covered solution was irradiated for 20 hours in an Atlas Sunchex™ simulated sunlight exposure instrument (Xenon arc lamp, set to 0.35 W/m2 at 340 nm, filtered to exclude wavelengths less than 280 nm; Atlas Electric Devices Co., Chicago, Ill.). The mixture was filtered to remove insoluble solids, and the filtrate was evaporated in vacuo to remove methanol. The residual aqueous solution was extracted repeatedly with ethyl ether, while the pH of the aqueous phase was adjusted incrementally between 7.5 and 8 by addition of 3N HCl. The aqueous phase was then acidified to pH 1 with HCl and extracted with ethyl ether. The ether phase was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Evaporation of the ether solution under reduced pressure gave a yellow solid, 340 mg. The residue was purified by chromatography on 50 g silica gel eluted with a gradient of 0% to 3% methanol in chloroform. The appropriate fractions were evaporated to a solid, 0.232 g. The product was identified by 1H NMR, MS, [M-H]+ =505.3 Da. and microanalysis.

reactant | methanol | 150 mL | CO | CH4O
reactant | NaOH | 1.00N, 4.2 mL | [OH-].[Na+]
reactant | 3-(7-methoxy-benzo[1,3]dioxol-5-yl)-5-hydroxy-5-(4-ethoxy-3-methylphenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | 3.95 mmol, 2.00 g | COC1=CC(=CC2=C1OCO2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC(=C(C=C2)OCC)C)O)=O | C31H32O10
reactant | water | 150 mL | O | H2O
product | (E)-4-(4-Ethoxy-3-methyl-benzoyl)-2-(7-methoxy-benzo[1,3]dioxol-5-yl)-4-(3,4,5-trimethoxy-benzyl)-but-2-enoic acid | C(C)OC1=C(C=C(C(=O)C(/C=C(/C(=O)O)\C2=CC3=C(OCO3)C(=C2)OC)CC2=CC(=C(C(=C2)OC)OC)OC)C=C1)C | C32H34O10
